US06723722B1
(3S)-3-(6-Chloronaphthalene-2-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-pyrrolidone
(3S)-3-(6-Chloronaphthalene-2-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylideneamino}-2-pyrrolidone (600 mg) was dissolved in methanol (40 ml), combined with acetic acid (761 mg) while cooling on ice, followed by sodium cyanoborohydride (300 mg) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated and the residue was combined with an aqueous solution of sodium carbonate, extracted with dichloromethane, dried, concentrated and purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) and crystallized from ethyl acetate to obtain the title compound (576 mg) as colorless crystals.

reactant | (3S)-3-(6-Chloronaphthalene-2-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylideneamino}-2-pyrrolidone | 600 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)N=C1CCN(CC1)C1=CC=NC=C1)=O | C24H24ClN5O3S
reactant | acetic acid | 761 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 300 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (3S)-3-(6-Chloronaphthalene-2-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-pyrrolidone | 576 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C24H26ClN5O3S
